US08466282B2
1-(3-methoxypropyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide 1/2 sulfate
tert-Butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (700 mg), 3-methoxypropan-1-ol (123 mg) and triphenylphosphine (465 mg) were dissolved in THF (20 ml), diisopropyl azodicarboxylate (40% toluene solution: 896 mg) was added, and the mixture was stirred at room temperature for 60 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was saturated aqueous sodium hydrogen carbonate and saturated washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-1:3) was concentrated under reduced pressure. The obtained substance was dissolved in ethyl acetate (3 ml), 4M hydrogen chloride-ethyl acetate (3 ml) was added, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was basified with saturated aqueous sodium hydrogen carbonate, and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-1:0) and ethyl acetate-methanol (93:7) was concentrated under reduced pressure. The obtained substance was dissolved in ethyl acetate (10 ml), sulfuric acid (42 mg) was added, and the solvent was evaporated under reduced pressure. The residue was dissolved in ethanol (10 ml), and the solvent was evaporated under reduced pressure. The residue was crystallized from ethyl acetate-methanol to give the object product (180 mg) as crystals.

reactant | tert-Butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 700 mg | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
reactant | 3-methoxypropan-1-ol | 123 mg | COCCCO | C4H10O2
reactant | triphenylphosphine | 465 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 896 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(3-methoxypropyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide | 180 mg | COCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | C26H39N5O4
